US09216173B2
To a solution of benzyl {2-[(tert-butoxycarbonyl)amino]-3-(methylamino)-3-oxopropyl}carbamate (2.5 g, 7.4 mmol) in methanol (40 mL) was added palladium on carbon (0.25 g, 10% w/w). The mixture was stirred under a hydrogen atmosphere (50 psi) at 50° C. After 4 hours, the reaction mixture was filtered and concentrated under reduced pressure to afford 3-amino-N2-(tert-butoxycarbonyl)-N-methylalaninamide. MS ESI calc'd. for C9H20N3O3 [M+H]+ 218. found 218. 1H NMR (400 MHz, CD3OD) δ 4.06-4.02 (m, 1H), 2.93-2.82 (m, 2H), 2.76 (s, 3H), 1.47 (s, 9H).

reactant | benzyl {2-[(tert-butoxycarbonyl)amino]-3-(methylamino)-3-oxopropyl}carbamate | 7.4 mmol, 2.5 g | C(C)(C)(C)OC(=O)NC(CNC(OCC1=CC=CC=C1)=O)C(=O)NC | C17H25N3O5
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 3-amino-N2-(tert-butoxycarbonyl)-N-methylalaninamide | NC[C@H](NC(=O)OC(C)(C)C)C(=O)NC | C9H19N3O3
